US05574061
N-(7-Methoxy-4-chromanon-8-yl)-2,2-dimethyldodecanamide (219)
127 mg of 2,2-dimethyldodecanoyl chloride was added to a solution of 98 mg of 8-amino-7-methoxy-4-chromanone and 0.07 ml of triethylamine in 2 ml of dichloromethane, and the mixture was stirred at room temperature for 12 hr. 15 ml of 2N hydrochloric acid was added thereto, and the mixture was extracted with ethyl acetate (25 ml×2). The extract was washed with 25 ml of brine, dried over anhydrous magnesium sulfate, filtered, concentrated and purified by silica gel column chromatography (hexane/ethyl acetate=3:2) to give 198 mg of the intended title compound.

reactant | 2,2-dimethyldodecanoyl chloride | 127 mg | CC(C(=O)Cl)(CCCCCCCCCC)C | C14H27ClO
reactant | 8-amino-7-methoxy-4-chromanone | 98 mg | NC=1C(=CC=C2C(CCOC12)=O)OC | C10H11NO3
reactant | triethylamine | 0.07 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2N, 15 ml | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | N-(7-Methoxy-4-chromanon-8-yl)-2,2-dimethyldodecanamide | 198 mg | COC1=CC=C2C(CCOC2=C1NC(C(CCCCCCCCCC)(C)C)=O)=O | C24H37NO4
